US08124636B2
To a solution of LDA (58 mL of a 2M solution in THF/Heptane) in THF (60 mL) at 0° C. was added BOC-L-proline (10 g as a solution in 25 mL of THF) dropwise via syringe over 10 minutes. The reaction mixture was stirred a further 20 minutes and then benzylchloromethylether (8.73 g) was added in one portion via syringe. The reaction mixture was allowed to warm to RT and stirred for 20 hours. The reaction was quenched with 1N aqueous HCl solution (30 mL) and diluted with EtOAc (80 mL). The phases were separated and the aqueous phase was extracted with further EtOAc (2×80 mL). The combined organics were washed with brine and dried over sodium sulfate. Filtration and evacuation of the volatiles in vacuo afforded a crude residue which was purified by flash column chromatography over silica gel (Heptane/EtOAc) to afford the desired 2-benzyloxymethyl-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester (810 mg, MS (ES−): 334.4 (M−H), orange oil).

reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | BOC-L-proline | C(=O)(OC(C)(C)C)N1[C@H](C(=O)O)CCC1 | C10H17NO4
reactant | benzylchloromethylether | 8.73 g | C(C1=CC=CC=C1)C(Cl)OC(CC1=CC=CC=C1)Cl | C16H16Cl2O
reactant | THF Heptane | C1CCOC1.CCCCCCC
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 2-benzyloxymethyl-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCC1)(C(=O)O)COCC1=CC=CC=C1 | C18H25NO5
